US04094886
In accordance with the process of Preparation 1, 3-oxo-5-trimethylsilyloxy-6-heptenoic acid methyl ester (360 mg; 1.47 mmol), p-toluenesulfonyl azide (290 mg; 1.47 mmol) and triethylamine (150 mg; 1.47 mmol) were used as starting materials to obtain 330 mg of 2-diazo-3-oxo-5-trimethylsilyloxy-6-heptenoic acid methyl ester as a yellow oily product.

reactant | 3-oxo-5-trimethylsilyloxy-6-heptenoic acid methyl ester | 1.47 mmol, 360 mg | COC(CC(CC(C=C)O[Si](C)(C)C)=O)=O | C11H20O4Si
reactant | p-toluenesulfonyl azide | 1.47 mmol, 290 mg | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | triethylamine | 1.47 mmol, 150 mg | C(C)N(CC)CC | C6H15N
product | 2-diazo-3-oxo-5-trimethylsilyloxy-6-heptenoic acid methyl ester | 330 mg | COC(C(C(CC(C=C)O[Si](C)(C)C)=O)=[N+]=[N-])=O | C11H18N2O4Si
